US04599409
3,8-Di-(N-diethylaminomethyleneamino)-6-dimethylaminophenanthridine
A suspension of 3,8-diamino-6-dimethylaminophenanthridine (500 mg) in N,N-diethylformamide (2 ml) was added to a mixture of phosphorus oxychloride (1.5 ml) and N,N-diethylformamide (5 ml), the temperature of the mixture being kept at 5° C. The resulting mixture was stirred for 30 minutes at room temperature, heated at 75°-80° C. for 2 hours, cooled, and diluted with acetone. The precipitate formed was filtered off and dissolved in water. The pH of the clear solution was adjusted to a value of 9 with aqueous ammonia. The solid thus obtained was filtered off, washed with water, dried, and purified by column chromatography over a neutral aluminum oxide column using benzene as the mobile phase. The product crystallized out from chloroform/diisopropyl ether. Yield 71%, melting point 124°-126° C.

reactant | 3,8-diamino-6-dimethylaminophenanthridine | 500 mg | NC=1C=CC2=C3C=CC(=CC3=C(N=C2C1)N(C)C)N | C15H16N4
reactant | phosphorus oxychloride | 1.5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-diethylformamide | 2 ml | C(C)N(C=O)CC | C5H11NO
reactant | N,N-diethylformamide | 5 ml | C(C)N(C=O)CC | C5H11NO
solvent | acetone | CC(=O)C | C3H6O
product | 3,8-Di-(N-diethylaminomethyleneamino)-6-dimethylaminophenanthridine | Yield 71% | C(C)N(CC)C=NC=1C=CC2=C3C=CC(=CC3=C(N=C2C1)N(C)C)N=CN(CC)CC | C25H34N6
